US07750184B2
B. N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-ethylsulfanyl-ethanesulfonamide
A 0° C. solution of ethanethiol (0.1 mL, 1.35 mmol) in THF (5 mL) is treated with NaH (81 mg, 2 mmol, 60% in mineral oil) and stirred for 10 m. The mixture is added a solution of N-(4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-chloro-ethanesulfonamide (500 mg, 1 mmol) in THF (10 mL), warmed to RT, and stirred overnight. The reaction is concentrated, dissolved in CH2Cl2, and washed with 0.2 N HCl. The organic layer is concentrated and chromatographed (0%-20% EtOA/Hex) to give the title compound (270 mg, 51%).

reactant | ethanethiol | 1.35 mmol, 0.1 mL | C(C)S | C2H6S
reactant | NaH | 2 mmol, 81 mg | [H-].[Na+]
reactant | N-(4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-chloro-ethanesulfonamide | 1 mmol, 500 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)NS(=O)(=O)CCCl)C)C)=O)(C)C | C27H38ClNO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-ethylsulfanyl-ethanesulfonamide | 270 mg, 51% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)NS(=O)(=O)CCSCC)C)C)=O)(C)C | C29H43NO4S2
